US07985755B2
5-[4-(2,4-Difluoro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2,4-Difluorobenzyl bromide (76.6 mg; 0.37 mmol) to obtain 65 mg. (88% yield). 1H NMR (400 MHz, DMSO-d6) δ 9.95 (s, 1H), 8.87 (s, 1H), 7.67 (m, 3H), 7.48 (m, 1H), 7.24 (m, 3H), 7.09 (m, 1H), 3.61 (s, 2H), 3.02 (br d, J=10.8 Hz, 2H), 2.89 (m, 4H), 2.33 (m, 2H). ESIMS+371.5 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2,4-Difluorobenzyl bromide | 0.37 mmol, 76.6 mg | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
product | 5-[4-(2,4-Difluoro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 88% yield | FC1=C(CN2CCN(CC2)C2=C3C(=NC(=NC3=CC=C2)N)N)C=CC(=C1)F | C19H20F2N6
